US04592866
7-Bromo-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-one
To a solution of 9.6 g (0.24 mole) of sodium hydroxide in 200 ml of water was added 37 g (0.12 mole) of 5-bromo-2-[(1-methyl-3-pyrrolidinyl)oxy]-benzamide and the mixture was heated at reflux for 18 hr. The pH of the mixture was adjusted to 6.7 with concentrated hydrochloric acid solution. The solution was concentrated under reduced pressure and the residue was boiled in 250 ml of isopropyl alcohol for 1 hr. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in chloroform and to the solution was added 28.3 g (0.24 mole) of thionyl chloride. The mixture was heated at reflux for 0.5 hr and cooled to 15° C. with an ice bath. To the mixture was added dropwise 26.6 g (0.26 mole) of triethylamine at such a rate that the temperature did not exceed 25° C. The reaction mixture was stirred at room temperature for 1 hr, then washed consecutively with 3N hydrochloric acid, 15% aqueous sodium hydroxide and water. The chloroform layer was dried over magnesium sulfate and concentrated under reduced pressure to give 23 g (60%) of brown solid. A portion of the solid was recrystallized from ethyl acetate-isopropyl ether, m.p. 92°-94° C.

reactant | sodium hydroxide | 0.24 mole, 9.6 g | [OH-].[Na+]
reactant | 5-bromo-2-[(1-methyl-3-pyrrolidinyl)oxy]-benzamide | 0.12 mole, 37 g | BrC=1C=CC(=C(C(=O)N)C1)OC1CN(CC1)C | C12H15BrN2O2
reactant | hydrochloric acid | Cl | ClH
reactant | thionyl chloride | 0.24 mole, 28.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 0.26 mole, 26.6 g | C(C)N(CC)CC | C6H15N
solvent | water | 200 ml | O | H2O
product | 7-Bromo-2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-benzoxazepine-5(4H)-one | 23 g, 60% | BrC=1C=CC2=C(C(N(CC(O2)CCCl)C)=O)C1 | C12H13BrClNO2
